US07157447B2
N-(4-Fluoro-2-(1-methyl-1H-pyrazol-5-yl)benzyl)-3-(benzyloxy)-9,9-dimethyl-4-oxo-4,6,7,9-tetrahydropyrimido[2,1-c][1,4]oxazine-2-carboxamide.
N-(4-Fluoro-2-iodobenzyl)-3-(benzyloxy)-9,9-dimethyl-4-oxo-4,6,7,9-tetrahydropyrimido[2,1-c][1,4]oxazine-2-carboxamide (0.250 g, 0.44 mmol) was reacted with 1-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole (0.183 g, 0.88 mmol), sodium carbonate (0.150 g, 1.41 mmol) and tetrakis(triphenylphosphine)palladium(0) (0.10 g) to give 0.152 g (65% yield) of the title material as a white solid after chromatography on silica gel. 1H NMR 400 MHz (CDCl3) δ (ppm): 1.63 (6H, s, 2×CH3), 3.69 (3H, s, NCH3), 4.0–4.1 (4H, m, 2×CH2), 4.34 (2H, d, J=6.6 Hz, NCH2), 5.29 (2H, s, OCH2), 6.26 (1H, d, J=2.0 Hz, CH), 6.98 (1H, dd, J=2.5 Hz and J=8.6 Hz, aromatic), 7.13 (1H, m, aromatic), 7.3–7.35 (3H, m, aromatics), 7.47–7.55 (4H, m, aromatics and NH), 7.57 (1H, d, J=2.0 Hz, CH). MS (ESI+) m/z 518 [M+H+].

reactant | N-(4-Fluoro-2-iodobenzyl)-3-(benzyloxy)-9,9-dimethyl-4-oxo-4,6,7,9-tetrahydropyrimido[2,1-c][1,4]oxazine-2-carboxamide | 0.44 mmol, 0.250 g | FC1=CC(=C(CNC(=O)C=2N=C3C(OCCN3C(C2OCC2=CC=CC=C2)=O)(C)C)C=C1)I | C24H23FIN3O4
reactant | 1-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 0.88 mmol, 0.183 g | CN1N=CC=C1B1OC(C(O1)(C)C)(C)C | C10H17BN2O2
reactant | sodium carbonate | 1.41 mmol, 0.150 g | C([O-])([O-])=O.[Na+].[Na+]
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.10 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | N-(4-Fluoro-2-(1-methyl-1H-pyrazol-5-yl)benzyl)-3-(benzyloxy)-9,9-dimethyl-4-oxo-4,6,7,9-tetrahydropyrimido[2,1-c][1,4]oxazine-2-carboxamide | 0.152 g, 65% yield | FC1=CC(=C(CNC(=O)C=2N=C3C(OCCN3C(C2OCC2=CC=CC=C2)=O)(C)C)C=C1)C1=CC=NN1C | C28H28FN5O4
